US08334376B2
To a solution of (3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl 4-nitrophenyl carbonate (24 mg, 0.044 mmol) in CH2Cl2 was added 2-(pyrrolidin-1-yl)ethanol (50.6 mg, 0.44 mmol, 10 eq), DIEA (22.7 mg, 0.176 mmol, 4 eq) and DMAP (19.7 mg, 0.176 mmol, 4 eq). The resultant mixture was stirred at 40° C. for 16 h and then purified via preparative TLC to afford (3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl 2-(pyrrolidin-1-yl)ethyl carbonate (20 mg, 87.0%) as a white solid. LRMS (M+H+) m/z 528.4. 1H NMR (CD3OD, 400 MHz) δ 8.01 (dd, J=10.0, 2.4 Hz, 1H), 7.44 (m, 1H), 6.29 (d, J=10.0 Hz, 1H), 5.00 (m, 1H), 4.35 (t, J=5.4 Hz, 2H), 3.12 (m, 2H), 2.96 (m, 4H), 2.55-2.60 (m, 1H), 1.08-2.15 (m, 25H), 0.99 (s, 3H), 0.73 (s, 3H).

reactant | (3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl 4-nitrophenyl carbonate | 0.044 mmol, 24 mg | C(O[C@H]1CC[C@@]2([C@H]3CC[C@@]4([C@H](CC[C@@]4([C@@H]3CC[C@@H]2C1)O)C=1C=CC(OC1)=O)C)C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C31H37NO8
reactant | 2-(pyrrolidin-1-yl)ethanol | 0.44 mmol, 50.6 mg, 10 eq | N1(CCCC1)CCO | C6H13NO
reactant | DIEA | 0.176 mmol, 22.7 mg, 4 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.176 mmol, 19.7 mg, 4 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | (3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl 2-(pyrrolidin-1-yl)ethyl carbonate | 20 mg, 87.0% | C(O[C@H]1CC[C@@]2([C@H]3CC[C@@]4([C@H](CC[C@@]4([C@@H]3CC[C@@H]2C1)O)C=1C=CC(OC1)=O)C)C)(OCCN1CCCC1)=O | C31H45NO6
